US04303655
A mixture of ethyl 2-(2-amino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (40 g.) and pyridine (200 ml.) was stirred in a stream of nitrogen gas at 40° C., and to the mixture was dropwise added a mixture of propanesulfonyl chloride (61.3 g.) and methylene chloride (100 ml.) over 2 hours, and then the mixture was stirred for 2 hours at the same temperature. After the reaction, pyridine and methylene chloride were distilled off from the reaction mixture. The residue was dissolved in ethyl acetate, and the solution was washed with water, 1/2 N hydrochloric acid and water in turn and then dried. The ethyl acetate was distilled off from the solution, and the residue was washed with a mixture of ethyl acetate and diethyl ether and then dried to give ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (16.4 g.), mp 140° to 142° C.

reactant | ethyl 2-(2-amino-1,3-thiazol-4-yl)acetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)acetate | N=C1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
reactant | propanesulfonyl chloride | 61.3 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetate | C(CC)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C10H16N2O4S2
